US07696216B2
F. Synthesis of (2-allyl-6-benzylamino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone
To a solution of 39 mg (0.13 mmol) (2-allyl-6-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone and 13.34 μl (13 mmol) benzaldehyde in 1.3 ml 1,2-dichlorethane and 0.3 g molecular sieves (4 Å pore size) are added after 1 h 13 mg (0.18 mmol) sodium cyanoborohydride and 7.55 μl acetic acid (0.13 mmol). After stirring for 16 h at r.t. 1 M hydrochloric acid is added to destroy the excess of hydride equivalents. By adding 1 M NaOH the mixture is basified. The crude product obtained by extraction with dichloromethane is purified by reversed phase preparative chromatography.

reactant | (2-allyl-6-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.13 mmol, 39 mg | C(C=C)C1=C(C(=CC=C1O)N)C(=O)C1=CC=C(C=C1)C(C)C | C19H21NO2
reactant | benzaldehyde | 13 mmol, 13.34 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 0.18 mmol, 13 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.13 mmol, 7.55 μl | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | 1,2-dichlorethane | 1.3 ml | ClCCCl | C2H4Cl2
product | (2-allyl-6-benzylamino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone | C(C=C)C1=C(C(=CC=C1O)NCC1=CC=CC=C1)C(=O)C1=CC=C(C=C1)C(C)C | C26H27NO2
